US06528510B1
A solution of 5.9 g (30 mmol) of 4-isopropyl-thiazole-5-carboxylic acid ethyl ester (J. Chem. Soc. Perkin Trans 1, 1982:159-164) in toluene (100 mL) was cooled in an ice bath under nitrogen and treated dropwise with DIBAL (150 mL of 1.0 M; 150 mmol). The mixture was stirred at low temperature for 45 minutes and then allowed to warm to room temperature overnight. H2O was added cautiously, and the mixture was extracted with EtOAc (3×200 mL). The combined extracts were washed with brine, dried (MgSO4), and concentrated. The crude 5-(hydroxymethyl)-4-isopropyl-thiazole thus obtained was used as is in the next step.

reactant | 4-isopropyl-thiazole-5-carboxylic acid ethyl ester | 30 mmol, 5.9 g | C(C)OC(=O)C1=C(N=CS1)C(C)C | C9H13NO2S
reactant | DIBAL | 150 mmol, 1.0 M, 150 mL | CC(C)C[AlH]CC(C)C
reactant | H2O | O | H2O
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | 5-(hydroxymethyl)-4-isopropyl-thiazole | OCC1=C(N=CS1)C(C)C | C7H11NOS
